US06727264B1
N-[3-(1-{5-[(4S)-4-(3,4-DIFLUOROPHENYL)-2-OXO-1,3-OXAZOLIDIN-3-YL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using (4S)-3-(5-chloropentyl)-4-(3,4-difluorophenyl)-1,3-oxazolidin-2-one and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 7.48 (s, 1H), 7.32 (d, 1H, J=8.6 Hz), 7.26-7.21 (m, 2H), 7.20-7.12 (m, 2H), 7.06 (m, 1H), 6.97 (d, 1H, J=6.96 Hz), 4.76 (dd, 1H, J=6.3, 8.3 Hz), 4.62 (t, 1H, J=9.0 Hz), 4.06 (dd, 1H, J=6.4, 8.7 Hz), 3.46 (m, 1H), 3.0 (d, 2H, J=9.0 Hz), 2.77 (q, 1H, J=6.8 Hz), 2.50 (q, 2H, J=6.8 Hz), 2.31 (t, 2H, J=6.8 Hz), 2.01 (m, 4H), 1.81 (m, 4H), 1.48 (m, 4H), 1.26 (d, 6H, J=7.3 Hz); Anal. Calcd for C28H37F2N3O3+HCl+0.25CHCl3: C, 60.6; H, 6.65; N, 7.25. Found: C, 60.7; H, 6.91; N, 7.05; ESMS m/e: 514.2 (M+H)+.

reactant | (4S)-3-(5-chloropentyl)-4-(3,4-difluorophenyl)-1,3-oxazolidin-2-one | ClCCCCCN1C(OC[C@@H]1C1=CC(=C(C=C1)F)F)=O | C14H16ClF2NO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-[3-(1-{5-[(4S)-4-(3,4-DIFLUOROPHENYL)-2-OXO-1,3-OXAZOLIDIN-3-YL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC=1C=C(C=CC1F)[C@@H]1N(C(OC1)=O)CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C29H37F2N3O3
